US04755212
Preparation of 2,6-dichloro-3-trifluoromethyl aniline
This material was prepared by chlorination of 2-chloro-5-trifluoromethyl aniline with N-chlorosuccinimide followed by chromatographic purification. The product was isolated as a yellow oil which was characterized by IR and 1H NMR spectroscopy and combustion analysis.

reactant | 2-chloro-5-trifluoromethyl aniline | ClC1=C(N)C=C(C=C1)C(F)(F)F | C7H5ClF3N
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
product | 2,6-dichloro-3-trifluoromethyl aniline | ClC1=C(N)C(=CC=C1C(F)(F)F)Cl | C7H4Cl2F3N
